Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with a PMH of anxiety,
depression and panic attacks who presents with 3 days of chest
pain. Chest pain first began ___ as a substernal, squeezing
pain that radiated to the right arm. Patient cannot recall what
he was doing with onset of the pain. The pain lasted for a few
hours and did not change with rest. Denies any associated nausea
or diaphoresis. Though did have night sweats last night. Patient
also endorses few days of fatigue.

Patient then continued to experience on and off mild chest pain
for the next few days. Pain became worse at work this afternoon,
prompting the patient to go to the ED. In the ED patient, 
reports
that the pain improved markedly with Nitro. Patient has
experienced episodes of chest pain in the past and presented to
the ED, but found to have no significant EKG changes. Patient 
has
never had a prior MI, but has done exercise stress tests in ___
for palpitations (no records in our system). He was unable to
follow-up due to loss of insurance. 

Of note, patient endorses increased personal stress/anxiety in
the last week. He has a history of panic attacks, but none
recently. 

Patient denies dyspnea on exertion, PND, orthopnea, ankle edema,
lightheadedness/dizziness and syncope or presyncope. Also denies
headache, fevers, n/v, abdominal pain and constipation or
diarrhea.

In the ED initial vitals were:  
T 99.4F, BP 142/57, HR 74, RR 18, 98% on RA

EKG: NSR, rate 62. Normal intervals and axis. ST elevations in
V2-V3, potential early repolarization. TWI in III. 

Repeat EKGs with evolving ST changes in V2-V3, however probable
normal early repol pattern

Labs/studies notable for:  

Troponins
cTropnT: <0.01 

CBC
WBC: 5.4 RBC: 5.52 Hgb: 15.7 Hct: 46.6 MCV: 84 MCH: 28.4 MCHC:
33.7 RDW: 14.3 RDWSD: 43.___ 

BMP
BLOOD Glucose: 86 UreaN: 13 Creat: 0.8 Na: 140 K: 4.4 Cl: 104
HCO3: 20* AnGap: 16 

Calcium: 9.6 Phos: 3.5 Mg: 1.8 

CXR: No acute cardiopulmonary process.

Patient was given:  
ASA 324mg
Nitro gtt 0.35mcg/kg/min

Vitals on transfer: T 97.9F, BP 120/64, HR 60, RR 18, 98% on RA

On the floor, patient arrived chest pain free on nitro gtt

REVIEW OF SYSTEMS:  
Positive per HPI.  

On further review of systems, denies fevers. Denies any prior
history of stroke, TIA, deep venous thrombosis, pulmonary
embolism, bleeding at the time of surgery, myalgias, joint 
pains,
cough, hemoptysis, black stools or red stools. Denies exertional
buttock or calf pain. All of the other review of systems were
negative.  
 
Past Medical History:
1. CARDIAC RISK FACTORS  
No history of HTN, DM or HLD
Last A1c and lipid panel were done on ___. A1c was 5.7 and
lipid panel was normal.

2. CARDIAC HISTORY  
No known cardiac history. Patient reports remote history of
palpitations, however, unclear if a diagnosis was ever made.
 
3. OTHER PAST MEDICAL HISTORY 
Atypical chest pain
Depression
Anxiety
 
Social History:
___
Family History:
Patient reports history of CAD in father, grandfather and uncle.
No family history of early MI or sudden cardiac death.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=======================  
VS: T 97.9F, BP 120/64, HR 60, RR 18, 98% on RA
GENERAL: Well developed, well-nourished. NAD. Oriented x3. Mood,
affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP not elevated.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM:

VS: T 97.9F, BP 120/64, HR 60, RR 18, 98% on RA
GENERAL: Well developed, well-nourished. NAD. Oriented x3. Mood,
affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP not elevated.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

 
Pertinent Results:
PERTINENT LABS: 

___ 10:06PM CK-MB-2 cTropnT-<0.01
___ 10:06PM ASA-NEG ETHANOL-NEG ACETMNPHN-NEG tricyclic-NEG
___ 08:19PM URINE HOURS-RANDOM
___ 08:19PM URINE bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:14PM GLUCOSE-88 CREAT-0.8 NA+-138 K+-4.0 CL--107 
TCO2-22
___ 04:14PM estGFR-Using this
___ 04:14PM HGB-15.8 calcHCT-47
___ 03:45PM GLUCOSE-86 UREA N-13 CREAT-0.8 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-104 TOTAL CO2-20* ANION GAP-16
___ 03:45PM estGFR-Using this
___ 03:45PM cTropnT-<0.01
___ 03:45PM CALCIUM-9.6 PHOSPHATE-3.5 MAGNESIUM-1.8
___ 03:45PM WBC-5.4 RBC-5.52 HGB-15.7 HCT-46.6 MCV-84 
MCH-28.4 MCHC-33.7 RDW-14.3 RDWSD-43.8
___ 03:45PM NEUTS-61.7 ___ MONOS-13.5* EOS-0.4* 
BASOS-0.4 IM ___ AbsNeut-3.35 AbsLymp-1.28 AbsMono-0.73 
AbsEos-0.02* AbsBaso-0.02
___ 03:45PM PLT COUNT-216

PERTINENT IMAGING/STUDIES: 

___ (PA & LAT)
IMPRESSION: 
 
No acute cardiopulmonary process.

___ Echo Report
Stress Conclusion: Good functional exercise capacity for age and 
gender. No ischemic ECG changes
with no symptoms. No 2D echocardiographic evidence of inducible 
ischemia to achieved treadmill
stress. No Doppler evidence for a change in left ventricular 
filling pressure with exercise. Normal
resting blood pressure with a normal blood pressure and a 
blunted heart rate response to achieved
treadmill stress.

 
Brief Hospital Course:
=============== 
ACTIVE ISSUES: 
=============== 

#Chest Pain
#History of Palpitations 
Troponin neg x1 with ST elevations in V2-V3 on EKG. Low
likelihood of ACS, however, due to evolving ST changes, pt was
admitted to evaluate for ischemic changes. Likely unstable 
angina
vs atypical chest pain. Patient has no significant risk factors
for CAD. Last A1c of 5.7 (___) and normal lipid profile with no
history of HTN. ___ ___ (1.2%) and TIMI ___. Pt is a former
smoker. Patient also reports remote history of palpitations for
which he states undergoing evaluation, but is unable to provide
more information. Does report experiencing occasional
palpitations, generally associated with panic attacks/increased
anxiety. 
Laboratory work here including TSH, lipid panel, and repeat 
troponins were unremarkable. Telemetry monitoring additionally 
did not demonstrate any further ST changes.
Stress echocardiography did not demonstrate any wall motion 
abnormalities or evidence of ischemic changes.

================ 
CHRONIC ISSUES: 
================ 
#Anxiety
#Depression
Continued home Sertraline 50mg daily
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY  
2.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Atypical Chest Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

Thank you for coming to ___ for your care. Please read the 
following instructions carefully for your care going forward:

WHY WAS I ADMITTED TO THE ___?
-You were admitted to the hospital because you had chest pain 
which was concerning for a possible heart attack.  Your lab work 
and other special testing show that this is not the case.

WHAT WAS DONE FOR ME WHILE I WAS HERE?
-We checked your blood work, heart rhythm, and did an ultrasound 
to determine the functionality of your heart.  All testing came 
back normal!

WHAT DO I NEED TO DO WHEN I LEAVE THE HOSPITAL? 
-Please follow-up with your primary care doctor.
-___ you develop new or concerning symptoms including chest pain, 
chest pressure, difficulty breathing, or numbness and tingling 
of your arms or jaw, please seek medical attention.
 
Followup Instructions:
___